US04990526
Step B: Preparation of Methyl 4-(methylthio)-gamma-oxo-benzenebutanoate
Thioanisole (12.4 g) and 1,4-dioxo-4-methoxybutyl chloride (16.5 g) in dichloroethane (100 ml) were cooled to 0° C. and aluminum chloride (16 g) was added, followed by another equivalent (16 g) and the reaction mixture was stirred at 0° C. for 2 hours. Ice was added, followed by 1N HCl. Dichloromethane (100 ml) was then added and the organic layer was separated, washed with water and then brine and dried with Na2SO4. Removal of the solvents yielded the title compound as an oil.

reactant | Thioanisole | 12.4 g | C1(=CC=CC=C1)SC | C7H8S
reactant | 1,4-dioxo-4-methoxybutyl chloride | 16.5 g | O=C(CCC(OC)=O)Cl | C5H7ClO3
reactant | aluminum chloride | 16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 1N | Cl | ClH
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 4-(methylthio)-gamma-oxo-benzenebutanoate | CSC1=CC=C(C=C1)C(CCC(=O)OC)=O | C12H14O3S
